US07956064B2
Methyl 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylate (1.0 eq, 0.62 g, 2.38 mmol) was suspended in toluene. DIEA (1.5 eq, 122 ul, 3.57 mmol) and POCl3 (2.3 eq, 507 ul, 5.47 mmol) were added and the mixture vigorously stirred at 120° C. for 1 hour. Water, ice and CH2Cl2 were added and the resulting emulsion filtered through celite. The organic phase was decanted and the aqueous phase further extracted with CH2Cl2. The combined organic extracts were dried over Na2SO4 and the solvent removed in vacuo to afford methyl 4-chlorothiazolo[4,5-c]quinoline-7-carboxylate (0.31 g, 47% yield). LCMS (ES): >90% pure, m/z 279[M+1]+.

reactant | Methyl 4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylate | 2.38 mmol, 0.62 g, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1N=CS2)C(=O)OC | C12H8N2O3S
reactant | DIEA | 3.57 mmol, 122 ul, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 5.47 mmol, 507 ul, 2.3 eq | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 4-chlorothiazolo[4,5-c]quinoline-7-carboxylate | 0.31 g, 47% yield | ClC1=NC=2C=C(C=CC2C2=C1N=CS2)C(=O)OC | C12H7ClN2O2S
